US04673746
3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone (24.6 g) is refluxed for 18 hours in 300 ml of pyridine containing 12.2 g of hydroxylamine hydrochloride. The reaction mixture is concentrated under reduced pressure and is distributed between ether and 5% HCl. The organic phase is dried and evaporated and the resulting crystalline product fused at 205° C. for 45 minutes. The product is cooled and recrystallized from toluene to give E-3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone oxime, mp 184°-186° C.

reactant | 3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone | 24.6 g | ClC=1C(=C(C(=O)C2=C(C=CC=C2)F)C=CC1OC)O | C14H10ClFO3
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 300 ml, 12.2 g | N1=CC=CC=C1 | C5H5N
product | E-3-chloro-2'-fluoro-2-hydroxy-4-methoxybenzophenone oxime | ClC=1C(=C(\C(\C2=C(C=CC=C2)F)=N/O)C=CC1OC)O | C14H11ClFNO3
